US07498440B2
4-(hydroxy{bis[3-(methyloxy)phenyl]}methyl)-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl{bis[3-(methyloxy)phenyl]}methanol (0.0506 g, 0.143 mmol) and 3-bromopropyl phenyl ether (0.0338 mL, 0.214 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.027 g, 33.2%). EI-MS m/z 488(M+) Rt (2.02 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl{bis[3-(methyloxy)phenyl]}methanol | 0.143 mmol, 0.0506 g | N12CCC(CC1)(CC2)C(O)(C2=CC(=CC=C2)OC)C2=CC(=CC=C2)OC | C22H27NO3
reactant | 3-bromopropyl phenyl ether | 0.214 mmol, 0.0338 mL | C1(=CC=CC=C1)OCCCBr | C9H11BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-(hydroxy{bis[3-(methyloxy)phenyl]}methyl)-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.027 g, 33.2% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC2=CC=CC=C2)(C2=CC(=CC=C2)OC)C2=CC(=CC=C2)OC | InChI=1S/C31H38NO4.BrH/c1-34-28-13-6-9-25(23-28)31(33,26-10-7-14-29(24-26)35-2)30-15-19-32(20-16-30,21-17-30)18-8-22-36-27-11-4-3-5-12-27;/h3-7,9-14,23-24,33H,8,15-22H2,1-2H3;1H/q+1;/p-1
